US09278915B2
Intermediate 3: Methyl 3-{4-[(3-benzoylbenzyl)oxy]phenyl}propanoate
To a 250 mL RB flask fitted with magnetic stirrer was charged 45 mL of DMF. To the stirred solvent was added 3-(4-Hydroxy-phenyl)-propanoic acid methyl ester (4.5 g, 16.35 mmol) followed by K2CO3 (6.78 g, 49.074 mmol) and the resulting mixture stirred at room temperature for 30 minutes. (3-bromomethyl-phenyl)-phenyl-methanone (2.94 g, 16.35 mmol) was added to the above mixture and stirring continued at RT for 24 h. After completion of the reaction (reaction monitored by TLC), reaction solvent was removed under reduced pressure. The crude compound was purified by column chromatography on silica gel (100/200 mesh) using petroleum ether (60-80) and ethyl acetate as eluent which yielded the product as yellow color oil (5.1 g, Yield: 83.3%): MS (ESI, 120 eV): m/z=375.1 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 7.68 (s, 1H), 7.62-7.66 (d, 3H), 7.57-7.59 (d, 1H), 7.53 (m, 1H), 7.45-7.50 (m, 3H), 7.11-7.13 (d, 2H), 6.88-6.90 (d, 2H), 5.10 (s, 2H), 3.66 (s, 3H), 2.85-2.92 (m, 2H), 2.56-2.62 (m, 2H).

reactant | 3-(4-Hydroxy-phenyl)-propanoic acid methyl ester | 16.35 mmol, 4.5 g | COC(CCC1=CC=C(C=C1)O)=O | C10H12O3
reactant | K2CO3 | 49.074 mmol, 6.78 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (3-bromomethyl-phenyl)-phenyl-methanone | 16.35 mmol, 2.94 g | BrCC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C14H11BrO
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | Methyl 3-{4-[(3-benzoylbenzyl)oxy]phenyl}propanoate | 5.1 g, Yield: 83.3% | C(C1=CC=CC=C1)(=O)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C24H22O4
